US06426360B1
To 1.13 g of benzoic acid (9.3 mmol), in 33 ml of methylene chloride at 0° C., was added N,O-dimethylhydroxylamine hydrochloride (906.7 mg; 10.23 mmol), 4.26 ml of triethylamine (3.09 g; 30.6 mmol) and 2-chloromethylpyridinium iodide (2.6 g; 10.23 mmol). After stirring at 25° C. for 12 hours, the reaction mixture was poured into 250 ml of methylene chloride, then this solution was extracted with 150 ml of 1N hydrochloric acid, 150 ml saturated, aqueous solution of sodium bicarbonate, and 150 ml of brine. The organic extracts were dried (MgSO4), filtered and evaporated under reduced pressure to give a oil, which was purified by flash chromatography (SiO2; 50% ethyl acetate/hexane) to give 0.872 of N-methoxy-N-methyl-benzenecarboxamide as an oil: Anal. Calc'd. for C9H11NO2+0.25 H2O: C, 63.70; H, 6.29; N 8.14. Found: C, 63.73; H, 6.83; N, 8.25

reactant | benzoic acid | 9.3 mmol, 1.13 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | N,O-dimethylhydroxylamine hydrochloride | 10.23 mmol, 906.7 mg | Cl.CNOC
reactant | triethylamine | 30.6 mmol, 4.26 ml, 3.09 g | C(C)N(CC)CC | C6H15N
reactant | 2-chloromethylpyridinium iodide | 10.23 mmol, 2.6 g | [I-].ClCC1=[NH+]C=CC=C1
solvent | methylene chloride | 33 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | N-methoxy-N-methyl-benzenecarboxamide | CON(C(=O)C1=CC=CC=C1)C | C9H11NO2
